US20010007867A1
A mixture of 3-amino-1-methyl-4-(2,4,6-trimethylphenyl)-1H-pyrrole-2carbonitrile (0.4 mmol) and acetic anhydride (0.043 ml) in acetic acid (0.01 ml) was heated at reflux untill all the starting material was consumed. The reaction mixture was concentrated to dryness. The residue was quenched with water and extracted with ethyl acetate. The organic extracts was washed with brine and concentrated to dryness. The residue was suspended in 0.5 ml of 85% phosphoric acid and heated at 130° C. for 1 hour. The mixture was cooled and poured into ice-water, stirred until solid formed. The solid was filtered to give 2,5-dimethyl-7-(2,4,6-trimethylphenyl)-5H-pyrrolo[3,2-d]pyrimidin4-ol. The alternative way for the work up is via extraction technique. The ice water was extracted with chloroform. The organic layer was dried and concentrated to dryness to give the desired product.

reactant | 3-amino-1-methyl-4-(2,4,6-trimethylphenyl)-1H-pyrrole-2carbonitrile | 0.4 mmol | NC1=C(N(C=C1C1=C(C=C(C=C1C)C)C)C)C#N | C15H17N3
reactant | acetic anhydride | 0.043 ml | C(C)(=O)OC(C)=O | C4H6O3
reactant | acetic acid | 0.01 ml | C(C)(=O)O | C2H4O2
product | 2,5-dimethyl-7-(2,4,6-trimethylphenyl)-5H-pyrrolo[3,2-d]pyrimidin4-ol | CC=1N=C(C2=C(N1)C(=CN2C)C2=C(C=C(C=C2C)C)C)O | C17H19N3O
